Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Abd Pain, Diarrhea 
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
This is a ___ speaking ___ 
female with past medical history significant for DMII and 
hypercholesterolemia who presents with loose stools and 
abdominal discomfort. The patient woke this morning at 0630am 
and began having some abdominal pain cramping with associated 
continuous watery nonbloody stools, persisting for 10 minutes. 
Per daughter who translates and is at the bedside, diarrhea was 
ongoing and was initially brown but now has small bright red 
clots. Patient and daughter had 3 episodes of watery non-bloody 
stool. After the stools, the patient's abdominal pain improved 
to a generalized abdominal pressure. She endorses thirst and 
mild nausea, however no vomiting.

She denies fevers, chills, chest pain, shortness of breath, 
dysuria, hematuria. She had previous symptoms similar to this in 
the past but per her family, she had no specific diagnosis. 
Previous history of appendectomy.

Pt recently finished a course of Bactrim for UTI. Denies recent 
travel or sick contacts. Last colonoscopy per patient was one 
year ago.

In the ED, initial vitals:  
7:18 0 97.5 57 152/54 20 100% RA 
Patient was guaic negative.
Labs were significant for normal cbc and chem10 with normal u/a. 
 
CT a/p with contrast showed bowel wall thickening and edema 
involving the sigmoid colon and rectum,potentially also the 
transverse and descending colon. Findings consistent with 
colitis.
Gastroenterology saw patient in ED and recommend stool cultures 
and hydration for likely infectious diarrhea. 
Patient was given 2.5L NS and 4mg Zofran.
Vitals prior to transfer:  
Today 16:12 98.4 54 134/60 18 98% RA 
On the floor,  patient states she feels much better. Her 
symptoms have dramatically improved. She thinks she may have had 
5 bowel movements today which she describes as bloody. 
 
ROS:  
No fevers, chills, night sweats, or weight changes. No changes 
in vision or hearing, no changes in balance. No cough, no 
shortness of breath, no dyspnea on exertion. No chest pain or 
palpitations. No nausea.  No dysuria or hematuria. No 
hematochezia, no melena. No numbness or weakness, no focal 
deficits.  

 
Past Medical History:
HTN
Hypercholesterolemia
DMII

 
Social History:
___
Family History:
Noncontributory

 
Physical Exam:
ADMISSION PHYSICAL EXAM
VS:  T98.4 BP141/59 HR57 RR16 98%RA 50.9 kg
GEN: Alert, lying in bed, no acute distress  
HEENT: dry MM, anicteric sclera, no conjunctival pallor  
NECK: Supple without LAD  
PULM: Clear, no wheeze, rales, or rhonchi  
COR: RRR, normal S1/S2, no murmurs 
ABD: Soft, NT ND, normoactive BS  
EXTREM: Warm, no edema  
NEURO: CN II-XII grossly intact, motor function grossly normal  
GU: no hemorrhoids seen on external exam
Guaic negative in ED

DISCHARGE PHYSICAL EXAM
Vitals:  T98.1 BP122/54 HR60 RR16 100%RA no BM/24 hours
GEN: Alert, lying in bed, no acute distress  
HEENT: dry MM, anicteric sclera, no conjunctival pallor  
NECK: Supple without LAD  
PULM: Clear, no wheeze, rales, or rhonchi  
COR: RRR, normal S1/S2, no murmurs 
ABD: Soft, no ttp to deep palpation, normoactive BS  
EXTREM: Warm, no edema  
NEURO: CN II-XII grossly intact, motor function grossly normal  
GU: no hemorrhoids seen on external exam
Guaic negative in ED
 
 
Pertinent Results:
ADMISSION LABS

___ 08:00AM BLOOD WBC-7.5 RBC-3.74* Hgb-11.1* Hct-34.1 
MCV-91 MCH-29.7 MCHC-32.6 RDW-13.1 RDWSD-43.1 Plt ___
___ 08:00AM BLOOD Neuts-65.1 ___ Monos-6.2 Eos-1.2 
Baso-0.3 Im ___ AbsNeut-4.85 AbsLymp-1.99 AbsMono-0.46 
AbsEos-0.09 AbsBaso-0.02
___ 08:00AM BLOOD Plt ___
___ 08:00AM BLOOD Glucose-142* UreaN-23* Creat-1.1 Na-136 
K-4.5 Cl-103 HCO3-17* AnGap-21*
___ 08:00AM BLOOD ALT-18 AST-21 AlkPhos-80 TotBili-0.4
___ 08:00AM BLOOD Albumin-4.0
___ 08:30PM BLOOD Calcium-9.3 Phos-3.0 Mg-1.4*

URINE
___ 11:40AM URINE Color-Yellow Appear-Clear Sp ___
___ 11:40AM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-NEG

STOOL STUDIES
Time Taken Not Noted     Log-In Date/Time: ___ 7:39 am
      STOOL     CONSISTENCY: WATERY      Source: Stool. 
   FECAL CULTURE (Final ___:    NO SALMONELLA OR SHIGELLA 
FOUND. 
   CAMPYLOBACTER CULTURE (Preliminary): 
   OVA + PARASITES (Preliminary): 
   FECAL CULTURE - R/O VIBRIO (Preliminary): 
   FECAL CULTURE - R/O YERSINIA (Preliminary): 
   FECAL CULTURE - R/O E.COLI 0157:H7 (Final ___: 
      NO E.COLI 0157:H7 FOUND. 

IMAGING
___ CT A/P WITH CONTRAST
Bowel wall thickening and edema involving the sigmoid colon and 
rectum, 
potentially also the transverse and descending colon.  Findings 
consistent 
with colitis. 

DISCHARGE LABS
___ 07:18AM BLOOD WBC-5.7 RBC-3.92 Hgb-11.4 Hct-35.5 MCV-91 
MCH-29.1 MCHC-32.1 RDW-13.1 RDWSD-42.6 Plt ___
___ 07:18AM BLOOD Plt ___
___ 07:18AM BLOOD Glucose-119* UreaN-9 Creat-0.8 Na-138 
K-4.2 Cl-105 HCO3-21* AnGap-16
___ 07:18AM BLOOD Calcium-9.7 Phos-3.3 Mg-1.5*
 
Brief Hospital Course:
This is a ___ speaking ___ 
female with past medical history significant for DMII and 
hypercholesterolemia who presents with loose stools with small 
amounts of blood and abdominal discomfort with CT a/p findings 
of colitis of sigmoid colon and rectum, potentially also the 
transverse and descending colon. 

# Colitis of sigmoid colon/rectum, and possibly 
transverse/descending colon with small amount of bleeding: 
Source of small amount of bleeding is most likely internal 
hemorrhoids (no external hemorrhoids on external exam). However 
ddx includes invasive colitis, IBD, viral/bacterial 
gastroenteritis versus other source of GI bleeding. Mild drop in 
hb likely reflects hemodilution following IV fluids and not a 
hemodynamically significant bleed. Labs were significant for 
normal lfts and negative u/a. Stool cultures are pending. 
Patient's symptoms dramatically improved with IVF and Zofran. 
She was tolerating regular diet at discharge. Of note, patient 
recently finished a course of Bactrim for UTI which puts her at 
risk for cdiff but she was unable to produce another stool 
specimen prior to discharge - she had no further episodes of 
diarrhea the 24 hours preceding discharge. 

CHRONIC ISSUES
# HTN: continued home lisinopril
# CAD prevention: decreased aspirin 325mg daily and started on 
aspirin 81mg daily. Continued home statin. 
# ?GERD: continued home protonix.
# DMII: held hold home metformin and sitagliptin in house and 
started on gentle ISS. Restarted home metformin and sitagliptin 
on discharge.
# Overactive bladder: continued home oxybutynin

# Transitional issues:
- f/u stool cultures
- asa 325mg daily was reduced to aspirin 81mg daily
- consider outpatient colonoscopy if ongoing diarrhea with 
bloody clots

# CODE STATUS: FULL CODE 
# CONTACT:  ___ ___

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 325 mg PO DAILY 
2. Pantoprazole 40 mg PO Q24H 
3. MetFORMIN (Glucophage) 850 mg PO BID 
4. Calcium 600 with Vitamin D3 (calcium carbonate-vitamin D3) 
600 mg(1,500mg) -400 unit oral BID 
5. Atorvastatin 20 mg PO QPM 
6. Januvia (sitaGLIPtin) 100 mg oral DAILY 
7. Oxybutynin 5 mg PO DAILY 
8. Lisinopril 5 mg PO DAILY 
9. Senna 8.6 mg PO QHS 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Atorvastatin 20 mg PO QPM 
3. Lisinopril 5 mg PO DAILY 
4. Oxybutynin 5 mg PO DAILY 
5. Pantoprazole 40 mg PO Q24H 
6. Calcium 600 with Vitamin D3 (calcium carbonate-vitamin D3) 
600 mg(1,500mg) -400 unit oral BID 
7. Januvia (sitaGLIPtin) 100 mg oral DAILY 
8. MetFORMIN (Glucophage) 850 mg PO BID 
9. Senna 8.6 mg PO QHS 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis: acute gastroenteritis, likely viral

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you here at the ___. 
You came into the hospital  with severe diarrhea which improved 
during your stay here with IV fluids and nausea medication. 
Imaging shows that you have inflammation of parts of your colon 
and rectum which is likely due to an acute viral/bacterial 
infection. We sent your stool for microbiology studies. You had 
a good appetite and were doing much bettter at time of 
discharge. We wish you all the best in your recovery.

Sincerely,

Your ___ team
 
Followup Instructions:
___